US07402595B2
3-acetyl-6-bromo-2-(3-fluorobenzyl)-4-phenyl-2H-isoquinolin-1-one
In the same manner as in Example 411, the title compound was synthesized from 3-fluorobenzylamine and 3-acetyl-6-bromo-4-phenylisochromen-1-one.

reactant | 3-fluorobenzylamine | FC=1C=C(CN)C=CC1 | C7H8FN
reactant | 3-acetyl-6-bromo-4-phenylisochromen-1-one | C(C)(=O)C=1OC(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O | C17H11BrO3
product | 3-acetyl-6-bromo-2-(3-fluorobenzyl)-4-phenyl-2H-isoquinolin-1-one | C(C)(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC(=CC=C1)F | C24H17BrFNO2
